US06350762B1
2) Synthesis of 2-amino-N-phenylacetamide
40 ml of dichloromethane and 20 ml of trifluoroacetic acid were added to 687 mg (2.74 mmol) of t-butyl phenylcarbamoylmethylcarbamate, and they were stirred at room temperature for 3 hours. Dichloromethane and trifluoroacetic acid were evaporated under reduced pressure. A saturated aqueous sodium hydrogencarbonate solution was added to the residue. After the extraction with ethyl acetate and then with dichloromethane, the organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure to obtain the title compound.

reactant | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | t-butyl phenylcarbamoylmethylcarbamate | 2.74 mmol, 687 mg | C1(=CC=CC=C1)NC(=O)CNC(OC(C)(C)C)=O | C13H18N2O3
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 2-amino-N-phenylacetamide | NCC(=O)NC1=CC=CC=C1 | C8H10N2O
